US06359013B1
E-2,4-dichlorostyryl phenyl sulfone
A solution of phenyl sulfonylacetic acid (0.01 mol) and 2,4-dichlorobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 60-65% yield.

reactant | phenyl sulfonylacetic acid | 0.01 mol | C1(=CC=CC=C1)S(=O)(=O)CC(=O)O | C8H8O4S
reactant | 2,4-dichlorobenzaldehyde | 0.01 mol | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
product | E-2,4-dichlorostyryl phenyl sulfone | 60-65% yield | C1(=CC=CC=C1)S(=O)(=O)\C=C\C1=C(C=C(C=C1)Cl)Cl | C14H10Cl2O2S
